US07419995B2
A solution of the 4-anilino-3-nitrobenzoic acid (20.1 mmol) in THF (100 mL) was charged with 10% Pd/C (500 mg) and the reaction flask evacuated and subsequently charged with H2 (g) three times. The mixture was stirred vigorously for 12 h after which time it was filtered through diatomaceous earth and the filtrate concentrated in vacuo to give the desired 3-amino-4-anilinobenzoic acid: e.g. 3-amino4-[(3-hydroxyphenyl)amino]benzoic acid.

reactant | 4-anilino-3-nitrobenzoic acid | 20.1 mmol | N(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C13H10N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 3-amino-4-anilinobenzoic acid | NC=1C=C(C(=O)O)C=CC1NC1=CC=CC=C1 | C13H12N2O2
